US07148226B2
6-Cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-[2-(3-ethyl-5-fluoro-4-hydroxy-phenyl)-ethyl]-4-hydroxy-5,6-dihydro-pyran-2-one
5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (0.2 g, 0.57 mmol) was added to a solution of 6-Cyclopentyl-6-[2-(3-ethyl-5-fluoro-4-hydroxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione (0.2 g, 0.53 mmol) in MeOH (6 mL). The reaction mixture was stirred for 15 mins and then treated with borane-dimethylamine complex (50 mg, 0.86 mmoL). After 15 hours the reaction mixture was quenched with 1N HCl and extracted with 10% MeOH in CH2Cl2. The combined organic layers were concentrated and recrystallized from EtOAc to give the product as a white soild (0.15 g, 52%). 1H NMR (400 MHz, DMSO-d6): δ 1.09 (t, J=7.3 Hz, 3 H), 1.43–1.72 (br m, 8 H), 2.05–2.17 (m, 2 H), 2.43 (m, 1 H), 2.48–2.58 (m, 10 H), 2.66 (d, J=17.4 Hz, 1 H), 2.81 (d, J=17.4 Hz, 1 H), 3.74 (d, J=16.2 Hz, 1 H), 3.85 (d, J=16.2 Hz, 1 H), 6.76 (s, 1 H), 6.84 (d, J=11.6 Hz, 1 H) 7.07 (s, 1 H), 9.08 (s, 1 H), 11.01 (s, 1 H). MS: C28H32N4O4F (M+H+) 509.10.

reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 0.57 mmol, 0.2 g | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
reactant | 6-Cyclopentyl-6-[2-(3-ethyl-5-fluoro-4-hydroxy-phenyl)-ethyl]-dihydro-pyran-2,4-dione | 0.53 mmol, 0.2 g | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C(=C1)F)O)CC | C20H25FO4
solvent | MeOH | 6 mL | CO | CH4O
product | 6-Cyclopentyl-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-6-[2-(3-ethyl-5-fluoro-4-hydroxy-phenyl)-ethyl]-4-hydroxy-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)O)CCC1=CC(=C(C(=C1)F)O)CC | C28H33FN4O4
